US08980911B2
3,5-Dichloro-N-(cyanomethyl)-4-(1H-pyrrolo[3,2-c]pyridin-1-ylcarbonyl)benzamide (Compound No. 76) was prepared using 1H-pyrrolo[3,2-c]pyridine and 2,6-dichloro-4-[(cyanomethyl)carbamoyl]benzoic acid.

reactant | 1H-pyrrolo[3,2-c]pyridine | N1C=CC=2C=NC=CC21 | C7H6N2
reactant | 2,6-dichloro-4-[(cyanomethyl)carbamoyl]benzoic acid | ClC1=C(C(=O)O)C(=CC(=C1)C(NCC#N)=O)Cl | C10H6Cl2N2O3
product | 3,5-Dichloro-N-(cyanomethyl)-4-(1H-pyrrolo[3,2-c]pyridin-1-ylcarbonyl)benzamide | ClC=1C=C(C(=O)NCC#N)C=C(C1C(=O)N1C=CC=2C=NC=CC21)Cl | C17H10Cl2N4O2
